US08247415B2
Step C: (5S)-6,7-Dihydro-5H-pyrrolo[1,2-b][1,2,4]triazol-5-ylmethanol
The product form step B above, 0.27 g (0.71 mmol) of (5S)-5-[(trityloxy)methyl]-6,7-dihydro-5H-pyrrolo[1,2-b][1,2,4]triazole, was dissolved in 35 mL of a 4.0 M solution of hydrogen chloride in anhydrous 1,4-dioxane. The reaction mixture was stirred for 10 min, quenched with 20 mL of methanol, then evaporated to dryness in vacuo. The residue was purified by reverse phase HPLC (TMC Pro-Pac C18; 0-90% 0.1% trifluoroacetic acid in acetonitrile/0.1% trifluoroacetic acid in water gradient) to yield the title compound (0.050 g, 50%). LC-MS: m/z (ES) 140 (MH)+.

reactant | (5S)-5-[(trityloxy)methyl]-6,7-dihydro-5H-pyrrolo[1,2-b][1,2,4]triazole | 0.71 mmol, 0.27 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)OC[C@@H]1CCC=2N1N=CN2 | C25H23N3O
solvent | hydrogen chloride | Cl | ClH
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | (5S)-6,7-Dihydro-5H-pyrrolo[1,2-b][1,2,4]triazol-5-ylmethanol | 0.050 g, 50% | N1=C2N(N=C1)[C@@H](CC2)CO | C6H9N3O
